US05192785
Sulfamic acid 2-(6-methoxy-2-naphthyl)propyl ester
The title compound was prepared by the procedure of Example 28 from sulfamoyl chloride and 2-(6-methoxy-2-naphthyl)propanol as white solid, mp 112°-115° C., in 21% yield.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(6-methoxy-2-naphthyl)propanol | COC=1C=C2C=CC(=CC2=CC1)C(CO)C | C14H16O2
product | Sulfamic acid 2-(6-methoxy-2-naphthyl)propyl ester | 21% yield | COC=1C=C2C=CC(=CC2=CC1)C(COS(N)(=O)=O)C | C14H17NO4S
